US05631208
To a solution 20 g of 3,4,5-trimethylphenol in 150 ml of absolute acetone was added 22 ml of 3-chloro-2-methylpropene and 20.3 g of anhydrous potassium carbonate. After refluxing for 45 hours, the reaction mixture was filtered, washed with acetone, concentrated under reduced pressure and diluted with 200 ml of diethyl ether. The mixture was extracted three times with 50 ml of 2N hydrochloric acid and 50 ml of 20% aqueous solution of sodium hydroxide. The organic extract was dried over anhydrous magnesium sulfate, filtered and concentrated under the reduced pressure to afford a crude product. Final purification was carried by silica-gel column chromatography to afford 27 g of methallyl 3,4,5-trimethylphenyl ether as yellow oil.

reactant | 3,4,5-trimethylphenol | 20 g | CC=1C=C(C=C(C1C)C)O | C9H12O
reactant | 3-chloro-2-methylpropene | 22 ml | ClCC(=C)C | C4H7Cl
reactant | potassium carbonate | 20.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | methallyl 3,4,5-trimethylphenyl ether | 27 g | CC=1C=C(C=C(C1C)C)OCC(C)=C | C13H18O
